.title Shunt Thermistor
.include /home/volpe/Documents/SAE/temp_hotspot_detector/spice/LM4041_N_ADJD1P233_TRANS.lib
Vbatt batt 0 3.7
RS batt out 680
Xreg0 1 out 0 LM4041_N_ADJD1P233
R1 out 1 6619.263157894738
R2 1 0 3043.8947368421054
Xreg1 1 out 0 LM4041_N_ADJD1P233
R3 out 1 6619.263157894738
R4 1 0 3043.8947368421054
Xreg2 1 out 0 LM4041_N_ADJD1P233
R5 out 1 6619.263157894738
R6 1 0 3043.8947368421054
Xreg3 1 out 0 LM4041_N_ADJD1P233
R7 out 1 6619.263157894738
R8 1 0 3043.8947368421054
Xreg4 1 out 0 LM4041_N_ADJD1P233
R9 out 1 6619.263157894738
R10 1 0 3043.8947368421054
R21 10 10 10
.options TEMP = 27C
.options TNOM = 27C
.op
.end
